data/oMe_Silver.jsonl
{"reaction_id": "NR-100_1-c1ccc2ccccc2c1","level": "medium","name": "Haloform Reaction","reactants_smiles": ["C(=O)(C)c1ccc2ccccc2c1","BrBr","[OH-]"],"products_smiles": ["C(=O)(O)c1ccc2ccccc2c1","C(Br)(Br)Br"],"conditions": "Br2, NaOH","mechanism_step_nums": 10,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(=C)c1ccc2ccccc2c1","step_weight": 0,"rationale": "Strong base deprotonates the acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(CBr)c1ccc2ccccc2c1","step_weight": 0,"rationale": "The electron-rich enolate α-carbon attacks electrophilic Br2, favored by the polarization of the Br–Br bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(=CBr)c1ccc2ccccc2c1","step_weight": 0,"rationale": "Base again deprotonates the remaining α-hydrogen, which is more acidic due to the inductive effect of the bromine substituent."},{"step": 4,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(C(Br)Br)c1ccc2ccccc2c1","step_weight": 0,"rationale": "The enolate formed attacks Br2, with electron withdrawal by the first bromine accelerating further halogenation."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(=C(Br)Br)c1ccc2ccccc2c1","step_weight": 0,"rationale": "Further deprotonation occurs as the α-hydrogen acidity increases with two bromines inductively withdrawing electron density."},{"step": 6,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(C(Br)(Br)Br)c1ccc2ccccc2c1","step_weight": 0,"rationale": "The highly activated enolate rapidly undergoes electrophilic bromination to give the tribromomethyl ketone."},{"step": 7,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(O)(C(Br)(Br)Br)c1ccc2ccccc2c1","step_weight": 0,"rationale": "Hydroxide attacks the carbonyl carbon, favored by the strong electrophilicity from the adjacent tribromomethyl group."},{"step": 8,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(O)c1ccc2ccccc2c1.[C-](Br)(Br)Br","step_weight": 0,"rationale": "The tetrahedral intermediate collapses, expelling the tribromomethyl anion, a good leaving group stabilized by three bromines."},{"step": 9,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Br)(Br)Br.C(=O)([O-])c1ccc2ccccc2c1","step_weight": 0,"rationale": "The tribromomethyl anion abstracts a proton from water or solvent due to its strong basicity, forming bromoform."},{"step": 10,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(O)c1ccc2ccccc2c1","step_weight": 0,"rationale": "The carboxylate intermediate is protonated under workup conditions to yield the carboxylic acid product."}],"description": "In basic conditions, the methyl ketone undergoes sequential α-bromination via enolate intermediates, driven by the electron-withdrawing carbonyl and strong electrophilicity of Br2. Complete halogenation facilitates nucleophilic attack by hydroxide, leading to cleavage and formation of carboxylate and bromoform as stable products."}
{"reaction_id": "NR-141_1-C(C)(C)C_2-COCC","name": "Meerwein-Ponndorf-Verley Reduction","level": "medium","reactants_smiles": ["C(=O)(C(C)(C)C)(COCC)"],"products_smiles": ["C(O)(C(C)(C)C)(COCC)"],"conditions": "Al(Oi-Pr)3, i-PrOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Al-](OC(C)C)(OC(C)C)OC(C)C)(C(C)(C)C)(COCC)","rationale": "Aluminum acts as a strong Lewis acid, coordinating to the carbonyl oxygen and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic hydride transfer."},{"step": 2,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(O[Al](OC(C)C)OC(C)C)(C(C)(C)C)(COCC)","rationale": "A six-membered cyclic transition state allows concerted hydride transfer from the α-carbon of isopropoxide to the activated carbonyl carbon, favored by chelation and minimal ring strain."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(C(C)(C)C)(COCC)","rationale": "Proton transfer from the coordinated alkoxide to the oxygen regenerates the aluminum isopropoxide catalyst and releases the neutral alcohol product."}],"description": "The carbonyl coordinates to aluminum isopropoxide, increasing electrophilicity. A six-membered cyclic transition state enables hydride transfer from isopropoxide to the carbonyl carbon, reducing it to an alcohol. Proton transfer regenerates the catalyst and releases the product."}
